Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
eye floater
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female with history of T1DM on insulin, now 5 weeks
post partum with pregnancy c/b pre-eclampsia, known diabetic
retinopathy, presents after optho eval ___ for "floater" and
optho diagnosing blood clot in branch of retinal artery. She was
referred in by her primary endocrinologist for echo and embolic
workup.

States that ___ had blurry vision and presented to hospital
found to have pre-eclampsia, symptoms improved somewhat after 
she
delivered her baby on ___. She has been followed by outpt 
MEEI
since for some "fluid" in the eye that they told her goes along
with fluid shifts with eclampsia and should continue to improve,
which it has. Both eyes were having blurry vision but this
continues to improve. She also has been getting frontal 
headaches
over the past several weeks and was seen in Mass Gen ED and had
head CT and brain MRI all of which were negative, they told her
it was from sleep deprivation, and her mother came and helped 
her
take care of the baby and HA resolved. No HA in the past 4 days.
THis past weekend she noticed a right eye floater, it is not
particularly loarge and there are no visual cuts, but saw outpt
optho today who referred her to ED after diagnosing a central
retinal artery branch occlusion which appears to be new. Her
floater appears to be improving and overall visual changes
improving/stable at this time. She has no known cardiac history
and her T1 DM controlled with insulin pump.
No eye pain or flashes. Denies fevers, leg swelling, chest pain,
SOB. No family history of stroke or blood clots though oes have
fam h/o HTN/HLD. No personal history of miscarriage or blood
clots. 

ED COURSE:
T 98.8  HR 90 BP 122/78  RR 18  100% RA. Labs unremarkable
including normal coags (normal PTT), Hct 33.8. Optho saw pt in 
ED
per ED resident (no documentation of this) and recommended
carotid ultrasound and TTE with bubble, nothing else.

On arrival to the floor she has no complaints, no new visual
changes, no headaches.

 
Past Medical History:
T1 diabetes
pre-eclampsia - BPs have normalized since delivery
h/o anemia during pregnancy on iron supplementation

 
Social History:
___
Family History:
No history of blood clots. Type 2 diabetes in 2 grandparents, 
father with HLD and IBS.

 
Physical Exam:
ADMISSION:
GENERAL: No fever, chills, night sweats, recent weight changes.
HEENT: No sores in the mouth, painful swallowing, intolerance to
liquids or solids, sinus tenderness, rhinorrhea, or congestion.
CARDS: No chest pain, chest pressure, exertional symptoms, or
palpitations.
PULM: No cough, shortness of breath, hemoptysis, or wheezing.
GI: No nausea, vomiting, diarrhea, constipation or abdominal
pain. No recent change in bowel habits, hematochezia, or melena.
GU: No dysuria or change in bladder habits.
MSK: No arthritis, arthralgias, myalgias, or bone pain.
DERM: Denies rashes, itching, or skin breakdown.
NEURO: + right eye floater as above but no numbness/tingling,
paresthesias, or focal neurologic symptoms.
PSYCH: No feelings of depression or anxiety. All other review of
systems negative.

DISCHARGE:

 VS:  98 106/63 84 16 97RA PAIN: denies  
 GEN: NAD, comfortable appearing  
 HEENT: ncat anicteric MMM  
 NECK:  no JVD
 CV: RRR, no m/r/g  
 RESP: CTA ___, no wheezes/rhonchi  
 ABD: deferred as pt was breast feeding 
 GU:  deferred
 EXTR:no c/c/e  
 DERM: clean, dry, no rash  
 NEURO: face symmetric speech fluent  
 PSYCH: calm, cooperative  
 
Pertinent Results:
___ 12:30AM BLOOD WBC-6.1 RBC-4.12 Hgb-11.3 Hct-33.8* 
MCV-82 MCH-27.4 MCHC-33.4 RDW-12.6 RDWSD-37.7 Plt ___
___ 12:30AM BLOOD Glucose-136* UreaN-16 Creat-0.8 Na-133 
K-3.9 Cl-96 HCO3-24 AnGap-17
___ 12:30AM BLOOD Cholest-171
___ 12:30AM BLOOD Triglyc-142 HDL-92 CHOL/HD-1.9 LDLcalc-51

REPORTS:
TRANSTHORACIC ECHOCARDIOGRAM
The left atrium and right atrium are normal in cavity size. No 
left atrial mass/thrombus seen (best excluded by transesophageal 
echocardiography). No atrial septal defect or patent foramen 
ovale is seen by 2D, color Doppler or saline contrast with 
maneuvers. The estimated right atrial pressure is ___ mmHg. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). No masses or thrombi 
are seen in the left ventricle. Doppler parameters are most 
consistent with normal left ventricular diastolic function. 
There is no ventricular septal defect. Right ventricular chamber 
size and free wall motion are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. No masses or 
vegetations are seen on the aortic valve. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no mitral valve prolapse. No mass or vegetation is seen 
on the mitral valve. The pulmonary artery systolic pressure 
could not be determined. There is no pericardial effusion. 

 IMPRESSION: Normal study. No cardiac source of embolism 
identified.  

CAROTID DUPLEX ULTRASOUND: PRELIMINARY: NEGATIVE FOR 
ATHEROSCLEROTIC DISEASE--PLEASE FOLLOW UP FINAL RESULT
 
Brief Hospital Course:
___ year old female with history of T1DM on insulin, now 5 weeks 
post partum with pregnancy c/b pre-eclampsia, known diabetic 
retinopathy, presents after optho eval ___ for "floater" and 
optho diagnosing blood clot in branch of retinal artery. 

# Branch retinal artery occlusion - referred in by outpt optho 
for embolic/hypercoagulable workup. Most likely atherosclerotic 
complication given her T1 DM and h/o preeclampsia but ddx 
includes carotid atherosclerosis which is the most common cause 
of BRAO. Other etiologies like GCA (unlikely given age) and 
paradoxical emboli (unlikely given no shunt on TTE) seem less 
likely.  No family history suggestive of thrombotic tendencies. 
MRI brain at ___ ED last week which was reportedly normal (for 
headaches, which have resolved after she started getting more 
sleep).
- telemetry monitoring for other arrhythmia/afib revealed no 
arrythmia
- carotid ultrasound preliminarily negative (will need outpt 
provider to ___ final read)
- echo wnl
- optho was consulted in ED, discussed with them and they felt 
that patient would be appropriate to ___ as an outpatient
- lipid panel reassuring
- other hypercoagulable testing may not be warranted as pt has 
no history of prior thrombosis, no h/o miscarriage, and no 
family history of thrombosis. No clinical features suggestive of 
SLE diagnosis. So far work up is unrevealing; can consider 
outpatient testing for anticardiolipin antibodies/lupus 
anticoagulant (less likely w/ normal PTT), APC/FVL/prothrombin 
mutations, etc
- would consider starting aspirin as an outpatient

# Type 1 diabetes - followed by ___. Last A1c 
per ___ ___ was 5.6.
- cont insulin pump as managed per pt

# Anemia - ___ pregnancy and had hgb to 7 during pregnancy; hgb 
has normalized at this point and pt may be able to DC iron 
supplementation 

[x] Discharge documentation reviewed, pt is stable for discharge 
 
[ ] >30 minutes was spent on day of discharge on coordination of 
care and counseling

TRANSITIONAL ISSUES:
-Please follow up final read of Carotid ultrasound
-Please follow up with outpatient ophthalmology
*At the time of writing discharge summary, patient was 
attempting to set up a visit with PCP.  As such, DC summary 
emailed to ___ providers.  Patient was given a copy of her DC 
summary to take to her initial PCP ___
 
Electronically signed by ___, MD, pager ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ferrous Sulfate 325 mg PO BID 

 
Discharge Medications:
1. Ferrous Sulfate 325 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Branch retinal artery occlusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for evaluation of vision changes, 
found to have a branch retinal artery occlusion.  While you were 
here, you had a carotid ultrasound and an echocardiogram of the 
heart which showed no abnormality.  You also had your 
cholesterol checked which showed no evidence of high cholesterol 
(in fact your cholesterol was quite good!)  Please follow up 
with your ophthalmologist, your primary care doctor, and your 
diabetes physician ___.  If you develop any vision changes, 
return to the hospital immediately.
 
Followup Instructions:
___